US06204264B1
(1) 4-{[2-(Dimethylamino)ethyl]amino}-N-methyl-3-nitrobenzamide
N,N-Dimethylethylenediamine (3.30 ml) was added to 4-chloro-N-methyl-3-nitrobenzamide (3.220 g) and the mixture was stirred for 14 hours at 100° C. The reaction mixture, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (3.687 g) as yellowish orange solid.

reactant | N,N-Dimethylethylenediamine | 3.30 ml | CN(CCN)C | C4H12N2
reactant | 4-chloro-N-methyl-3-nitrobenzamide | 3.220 g | ClC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-] | C8H7ClN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[2-(Dimethylamino)ethyl]amino}-N-methyl-3-nitrobenzamide | 3.687 g | CN(CCNC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-])C | C12H18N4O3
